US07273868B2
A mixture of 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-[(hydroxy)(2-pyridyl)methyl]pyrimidine (prepared in the above (2)) 46 mg, manganese dioxide 230 mg and chloroform 2.3 ml is stirred at room temperature for 3 hours. After removal of insoluble substances by filtration, the filtrate is concentrated in vacuo to give 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine 39 mg. mp 117-119° C. (recrystalization from diethyl ether), MS(m/z): 389(M+H)+

reactant | 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-[(hydroxy)(2-pyridyl)methyl]pyrimidine | ClC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(C1=NC=CC=C1)O | C18H16Cl2N4O2
catalyst | manganese dioxide | 230 mg | [O-2].[O-2].[Mn+4]
solvent | chloroform | 2.3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine | 39 mg | ClC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)C1=NC=CC=C1 | C18H14Cl2N4O2
